US07863446B2
Preparation of 3-[6-{4-[5-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]benzenesulfonamide
The solution of 3-[6-chloro-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]benzenesulfonamide (0.1 g, 0.242 mmol) in pyridine (2 ml) was treated with 1-[5-(trifluoromethyl)pyridin-2-yl]piperazine (0.3 g, 0.68 mmol) and the reaction mixture was stirred for 1 hour at room temperature. Subsequently the reaction mixture was poured onto crushed ice containing two drops of concentrated hydrochloric acid, extracted with ethyl acetate (25 ml) and the organic layer was washed with brine and evaporated. The title compound was obtained by column chromatographic purification of the crude material with 30% ethyl acetate in hexane. 1H-NMR (DMSO-d6) δ: 3.33-3.37 (m, 4H), 3.56 (m, 4H), 6.86-6.88 (d, 1H), 7.10-7.12 (d, 2H), 7.22-7.29 (m, 3H), 7.35-7.37 (m, 1H), 7.44-7.48 (m, 1H), 7.74-7.79 (m, 3H), 8.38 (s, 1H). MS m/z: 608.8 (M+).

reactant | 3-[6-chloro-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]benzenesulfonamide | 0.242 mmol, 0.1 g | ClC1=C(C(=NC(=N1)C(F)(F)F)C=1C=C(C=CC1)S(=O)(=O)N)C1=CC=CC=C1 | C17H11ClF3N3O2S
reactant | 1-[5-(trifluoromethyl)pyridin-2-yl]piperazine | 0.68 mmol, 0.3 g | FC(C=1C=CC(=NC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3-[6-{4-[5-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]benzenesulfonamide | FC(C=1C=CC(=NC1)N1CCN(CC1)C1=C(C(=NC(=N1)C(F)(F)F)C=1C=C(C=CC1)S(=O)(=O)N)C1=CC=CC=C1)(F)F | C27H22F6N6O2S
